US09260408B2
[B] N-[5-(7-Fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-propionamide
To a mixture of 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-22, 168 g, 0.55 mmol) and N-(5-bromo-pyridin-3-ylmethyl)-propionamide (122 mg, 0.5 mmol) in DMF (3 mL), purged with argon for 1 min, was added bis(triphenylphosphine)palladium (II)chloride (38 mg, 0.054 mmol) and 1 N aq. Na2CO3 (2.5 mL). Then, the resulting reaction mixture was heated in a microwave at 110° C. for 45 min. After cooling to room temperature, it was diluted with EtOAc (5 mL) and poured into a satd. aq. solution of NaHCO3 (10 mL). The aqueous layer was extracted with EtOAc (3×5 mL) and combined organics were washed with water and brine (20 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was then purified by prep-HPLC to afford the title compound (30 mg, 18%) as a white solid. MS: 342.1 (M+H+)+.

reactant | 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 0.55 mmol, 168 g | FC1=C(C=C2CCC(N(C2=C1)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BFNO3
reactant | N-(5-bromo-pyridin-3-ylmethyl)-propionamide | 0.5 mmol, 122 mg | BrC=1C=C(C=NC1)CNC(CC)=O | C9H11BrN2O
reactant | Na2CO3 | 1 N, 2.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | N-[5-(7-Fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-propionamide | 30 mg, 18% | FC1=C(C=C2CCC(N(C2=C1)C)=O)C=1C=C(C=NC1)CNC(CC)=O | C19H20FN3O2
